US07915443B2
6-amino-5-[(3-hydroxyphenyl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide
A mixture of (S)-6-amino-5-ethynyl-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide (60 mg, 0.2 mmol), 3-iodophenol (66 mg, 0.3 mmol), triethylamine (0.07 mL, 0.5 mmol), dichlorobis(triphenylphosphine)palladium(II) (14 mg, 0.02 mmol), triphenylphosphine (1.3 mg, 0.005 mmol) in 1.8 mL DMF at room temperature was degassed using a H2/N2 (1:1) mixture and then copper(I) iodide (2 mg, 0.01 mmol) added. The reaction was heated at 60° C. for 15 minutes and then partitioned between EtOAc and saturated NaHCO3. The EtOAc layer was washed with brine, dried with anhydrous Na2SO4 and rotary evaporated to a brown oil. Before chromatography a different lot of product (23 mg) was added and the combined lots were purified by chromatography (silica gel, EtOAc/EtOH) to the title compound as an off-white solid (91 mg, 89%).

reactant | (S)-6-amino-5-ethynyl-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 0.2 mmol, 60 mg | NC1=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C=C1C#C | C15H13N3O2S
reactant | 3-iodophenol | 0.3 mmol, 66 mg | IC=1C=C(C=CC1)O | C6H5IO
reactant | triethylamine | 0.5 mmol, 0.07 mL | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 0.005 mmol, 1.3 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.02 mmol, 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.01 mmol, 2 mg | [Cu]I
product | 6-amino-5-[(3-hydroxyphenyl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | NC1=NC=C(C(=O)N=S(C2=CC=CC=C2)(=O)C)C=C1C#CC1=CC(=CC=C1)O | C21H17N3O3S
